US05523475
4-Bromo-6-fluoro-3-hydroxy-2-nitrobenzoic acid
6-Fluoro-3-hydroxy-2-nitrobenzoic acid (22 mg, 0.11 mmol) was dissolved in acetic acid (2 mL). Sodium acetate (10 mg, 0.12 mmol) and Br2 (10 μL, 0.19 mmol) was added and the reaction mixture was left at room temperature for 14 h. The temperature was raised to 50° and the reaction was continued for another 4 h. Evaporation gave a residue which was dissolved in water, and after adjustment of the pH the aqueous phase was extracted with EtOAc. Washing of the organic phase with water and evaporation gave a crude product which was purified by flash chromatography on SiO2. Eluation with toluene-EtOAc-HOAc afforded the product (23 mg). 1NMR (CD3OD): δ8.0 (d, J=8.7, 1H); MS (EI, 70 eV): m/z (rel. int.) 279/281 (M+, 40/38)

reactant | 6-Fluoro-3-hydroxy-2-nitrobenzoic acid | 0.11 mmol, 22 mg | FC1=CC=C(C(=C1C(=O)O)[N+](=O)[O-])O | C7H4FNO5
reactant | Sodium acetate | 0.12 mmol, 10 mg | C(C)(=O)[O-].[Na+]
reactant | Br2 | 0.19 mmol, 10 μL | BrBr | Br2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-Bromo-6-fluoro-3-hydroxy-2-nitrobenzoic acid | 23 mg | BrC1=C(C(=C(C(=O)O)C(=C1)F)[N+](=O)[O-])O | C7H3BrFNO5
